2195-05-15 07:59:00 Physician Resident Progress Note
Chief Complaint:  69F h/o CAD s/p multiple stents, ischemic
   cardiomyopathy (EF 25%), DM2, asthma presenting with acute shortness of
   breath and altered mental status in the setting of CHF exacerbation
   24 Hour Events:
   - Bcx [**1-21**] from [**5-13**] growing GPC, for now, vanc restarted pending
   speciation
   - lasix given with good urine output
   - tolerated sedation wean (on 10 and 1)
   - 4 pm Hct stable at 32.1 (31.1)
   - Too somnolent during the day to try PSV, can try again in am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2195-5-14**] 01:08 AM
   Vancomycin - [**2195-5-14**] 07:47 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2195-5-15**] 12:06 AM
   Heparin Sodium (Prophylaxis) - [**2195-5-15**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-5-15**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 61 (61 - 120) bpm
   BP: 110/60(76) {103/55(70) - 130/81(97)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    840 mL
                                                                    115 mL
   PO:
             TF:
   IVF:
                                                                    840 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                    300 mL
   Urine:
                                                                  2,280 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,440 mL
                                                                   -185 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 38 cmH2O
   Plateau: 19 cmH2O
   Compliance: 48.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/41/156/31/8
   Ve: 6.6 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   base, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   240 K/uL
   10.6 g/dL
   203 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.5 mEq/L
   41 mg/dL
   104 mEq/L
   140 mEq/L
   31.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2195-5-13**]  06:11 PM
                             [**2195-5-13**]  08:26 PM
                             [**2195-5-13**]  10:52 PM
                             [**2195-5-14**]  12:13 AM
                             [**2195-5-14**]  05:06 AM
                             [**2195-5-14**]  05:38 AM
                             [**2195-5-14**]  04:13 PM
                             [**2195-5-14**]  04:34 PM
                             [**2195-5-15**]  04:47 AM
                             [**2195-5-15**]  04:58 AM
   WBC
   8.3
   6.3
   5.6
   8.7
   Hct
   36.9
   31.3
   31.1
   32.1
   31.2
   Plt
   261
   223
   241
   240
   Cr
   1.3
   1.1
   1.0
   1.1
   TropT
   0.04
   0.02
   TCO2
   30
   29
   34
   32
   32
   Glucose
   [**Telephone/Fax (3) 2399**]03
   Other labs: PT / PTT / INR:15.9/27.6/1.4, CK / CKMB /
   Troponin-T:47/5/0.02, ALT / AST:120/99, Alk Phos / T Bili:302/1.5,
   Amylase / Lipase:61/27, Lactic Acid:1.2 mmol/L, Albumin:3.6 g/dL,
   LDH:336 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   69F h/o CAD s/p multiple stents, ischemic cardiomyopathy (EF 25%), DM2,
   asthma presenting with acute shortness of breath and altered mental
   status.
   # Respiratory failure: Hypoxic likely due to CHF. Also evidence of
   bronchospasm on exam with high pip and plateau pressures on vent. No
   evidence PNA on CXR and normal WBC count, however was significantly
   hypothermic at NH. PE less likely.
   - Hold on diuresis for now given pressor requirement post-intubation
   - Continue vanco/CTX/levo for now
   - MDIs while intubated, solumedrol 60 IV daily
   - Reposition ET tube and repeat CXR
   # Hypotension: Possibly related to medications peri-intubation, but
   sepsis and cardiogenic also on differential. Unlikely hypovolemic given
   appearance of significant volume overload on examination. Primary
   adrenal cause also unlikely.
   - Wean dopamine, maintain MAP>65
   - Place A-line
   - F/u blood cultures
   - Send sputum
   - Continue antibiotics
   - Cycle cardiac enzymes
   # CHF: Ischemic etiology. EF 25% s/p ICD. Volume overloaded on exam,
   with CXR consistent with CHF. Hold on diuresis for now until stable off
   pressors, then gently. Hold beta-blocker and ACEi until weaned from
   pressors.
   # CAD: s/p MI and multiple stents with known chronic LAD total
   occlusion. No new ECG changes but has basline LAFB; initial enzymes
   negative.
   - Continue ASA, plavix, statin
   - Hold beta-blocker given pressor requirement
   - Cycle enzymes, repeat ECG
   # [**Last Name (un) **]: Baseline Cre 1.0, currently 1.3. Likely pre-renal. Will follow
   s/p volume resuscitation in ED. Hold ACEi and lasix.
   # Diabetes type 2: Continue home insulin regimen.
   # Asthma: MDIs while intubated as necessary, solumedrol 60 IV daily.
   # Depression: Continue paxil.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-5-13**] 06:13 PM
   Multi Lumen - [**2195-5-13**] 06:49 PM
   Arterial Line - [**2195-5-13**] 10:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-05-15 11:27:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic resp failure
   HPI:
   69 yo F w/CAD s/p CABG and multiple stents, ischemic CMP (EF25%) s/p
   ICD, and asthma a/w SOB, hypotension, and altered MS.  Intubated in ED
   after failed trial of bipap.  Required dopamine briefly
   peri-intubation, off since arrival to ICU.  CXR with bilateral
   effusions.  Likely CHF exacerbation +/- asthma exacerbation;
   precipitant unclear- EKG unchanged, cardiac enzymes negative, no
   evidence of infection (normothermic since admission (?h/o hypothermia
   at NH w/temp 92), WBC wnl, no sputum).  Diuresed ~1.5L since admission;
   also treated w/steroids and broad spectrum abx.  Currently w/good
   oxygen saturation on AC 500X14, FiO2, peep 8; no longer wheezy.  Plan
   to continue diuresis, quickly wean steroids, and d/c abx.  Will lighten
   sedation w/plan to switch to PSV.
   24 Hour Events:
   [**1-21**] bld cx bottles w/GPC clusters-> vanco started
   Diuresed (-1.5L)
   Sedation weaned
   RSBI 44 this am
   Fentanyl gtt 15, versed gtt 1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2195-5-14**] 01:08 AM
   Vancomycin - [**2195-5-15**] 08:07 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2195-5-15**] 12:06 AM
   Heparin Sodium (Prophylaxis) - [**2195-5-15**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-5-15**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 110 (61 - 120) bpm
   BP: 124/72(90) {105/56(72) - 130/81(97)} mmHg
   RR: 18 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    840 mL
                                                                    452 mL
   PO:
             TF:
   IVF:
                                                                    840 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                    562 mL
   Urine:
                                                                  2,280 mL
                                                                    562 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,440 mL
                                                                   -110 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 320 (320 - 400) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 59
   RSBI Deferred: No Spon Resp
   PIP: 38 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.36/59/86/31/5
   Ve: 6.2 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: coarse diminished anteriorly b/l
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, warm
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, turns head to voice but does not open eyes and does
   not follow commands
   Labs / Radiology
   10.6 g/dL
   240 K/uL
   203 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.5 mEq/L
   41 mg/dL
   104 mEq/L
   140 mEq/L
   31.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2195-5-13**]  08:26 PM
                             [**2195-5-13**]  10:52 PM
                             [**2195-5-14**]  12:13 AM
                             [**2195-5-14**]  05:06 AM
                             [**2195-5-14**]  05:38 AM
                             [**2195-5-14**]  04:13 PM
                             [**2195-5-14**]  04:34 PM
                             [**2195-5-15**]  04:47 AM
                             [**2195-5-15**]  04:58 AM
                             [**2195-5-15**]  09:38 AM
   WBC
   6.3
   5.6
   8.7
   Hct
   31.3
   31.1
   32.1
   31.2
   Plt
   223
   241
   240
   Cr
   1.1
   1.0
   1.1
   TropT
   0.02
   TCO2
   30
   29
   34
   32
   32
   35
   Glucose
   [**Telephone/Fax (3) 2401**]
   Other labs: PT / PTT / INR:15.9/27.6/1.4, CK / CKMB /
   Troponin-T:47/5/0.02, ALT / AST:120/99, Alk Phos / T Bili:302/1.5,
   Amylase / Lipase:61/27, Lactic Acid:1.2 mmol/L, Albumin:3.6 g/dL,
   LDH:336 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   69 yo F w/CAD s/p CABG and multiple stents, ischemic CMP (EF25%) s/p
   ICD, and asthma a/w SOB, hypotension, and altered MS.  Intubated in ED
   after failed trial of bipap.  Required dopamine briefly
   peri-intubation, off since arrival to ICU.  CXR with bilateral
   effusions.  Likely CHF exacerbation +/- asthma exacerbation;
   precipitant unclear- EKG unchanged, cardiac enzymes negative, no
   evidence of infection (normothermic since admission (?h/o hypothermia
   at NH w/temp 92), WBC wnl, no sputum).  Diuresed ~1.5L since admission;
   also treated w/steroids and broad spectrum abx.  Currently w/good
   oxygen saturation on AC 500X14, FiO2, peep 8; no longer wheezy.  Plan
   to continue diuresis, quickly wean steroids, and d/c abx.  Will lighten
   sedation w/plan to switch to PSV.
   #Hypoxemic resp failure
   Minimal vent settings w/good RSBI though MS poor, so not ready for
   extubation
   Rapid steroid taper
   Continue diuresis, I/O goal -1L
   #Altered mental status
   Minimally responsive despite very low doses fent/versed.  Plan change
   to sedation from fent/versed to propofol and then try and wake up- if
   MS continues to be poor, will need head CT.
   #Positive bld cx
   CNS, likely contaminant as subseqent cxs neg, stop vanco today.
   #HTN
   BP improving, if still elevated after changing to propofol, will add
   back ACEI for afterload reduction given sig LV systolic dysfxn.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2195-5-13**] 06:13 PM
   Multi Lumen - [**2195-5-13**] 06:49 PM
   Arterial Line - [**2195-5-13**] 10:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 32

2195-05-16 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubated; still sleepy but following commands
   - given lasix with good UOP
   - unable to get peripheral IV; still has groin line.  will put in for
   picc request
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2195-5-14**] 01:08 AM
   Vancomycin - [**2195-5-15**] 08:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2195-5-15**] 12:18 PM
   Heparin Sodium (Prophylaxis) - [**2195-5-16**] 12:05 AM
   Other medications:
   Ipratropium
   Albuterol
   Prednisone
   Acetaminophen prn
   Paroxetine
   Atorvastatin
   Clopidogrel
   Asa
   ISS
   Docusate PRN
   Senna PRN
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: sedated, not answering questions appropriately
   Flowsheet Data as of  [**2195-5-16**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 90 (74 - 126) bpm
   BP: 124/56(71) {115/44(64) - 124/66(78)} mmHg
   RR: 24 (13 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    585 mL
                                                                     13 mL
   PO:
             TF:
   IVF:
                                                                    495 mL
                                                                     13 mL
   Blood products:
   Total out:
                                                                  1,902 mL
                                                                    530 mL
   Urine:
                                                                  1,902 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,317 mL
                                                                   -518 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (320 - 440) mL
   PS : 10 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   SpO2: 97%
   ABG: 7.43/53/55/33/8
   Ve: 8 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: rhonchorous breath sounds, minmal basilar
   crackles, no wheeze
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, impressive new
   asymmetric LUE edema.
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: voice, obeying commands intermittently, not
   answering questions clearly or consistently, speech garbled.  No
   asymmetry, pt unable to follow commands to complete CN exam.
   Labs / Radiology
   200 K/uL
   10.4 g/dL
   109 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.7 mEq/L
   31 mg/dL
   102 mEq/L
   143 mEq/L
   30.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2195-5-14**]  05:06 AM
                             [**2195-5-14**]  05:38 AM
                             [**2195-5-14**]  04:13 PM
                             [**2195-5-14**]  04:34 PM
                             [**2195-5-15**]  04:47 AM
                             [**2195-5-15**]  04:58 AM
                             [**2195-5-15**]  09:38 AM
                             [**2195-5-15**]  04:28 PM
                             [**2195-5-16**]  04:40 AM
                             [**2195-5-16**]  05:01 AM
   WBC
   5.6
   8.7
   10.7
   Hct
   31.1
   32.1
   31.2
   30.9
   Plt
   241
   240
   200
   Cr
   1.0
   1.1
   0.9
   TropT
   0.02
   TCO2
   34
   32
   32
   35
   36
   36
   Glucose
   [**Telephone/Fax (3) 2409**]
   Other labs: PT / PTT / INR:15.9/27.6/1.4, CK / CKMB /
   Troponin-T:47/5/0.02, ALT / AST:71/33, Alk Phos / T Bili:186/0.5,
   Amylase / Lipase:38/26, Lactic Acid:1.2 mmol/L, Albumin:3.6 g/dL,
   LDH:194 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Micro: 4/23 2/4 bottles, 1 set + coagulase negative staph.
   Assessment and Plan
   69F h/o CAD s/p multiple stents, ischemic cardiomyopathy (EF 25%), DM2,
   asthma presenting with acute shortness of breath and altered mental
   status in the setting of CHF exacerbation
   # Respiratory failure: Hypoxic likely due to CHF.
   - cont diuresis today with furosmide 40 mg IV x 1; responded well
   yesterday.  Goal I/O -1L
   - Succesfully extubated last evening, sating well on high flow 02
   mask.
   - cont rapid prednisone taper, d/c today
   # Hypotension: improved now; off pressors.  Likely in setting of
   baseline poor CO and intubation.
   -  monitor with diuresis.  If BP tolerates, will re-start ace-I prior
   to restarting b-blocker in the setting of acute CHF exacerbation
   -  stopped vancomycin for positive blood culture; only
 and was
   s.aureus coag negative. Likely contaminant.
   # CHF: Ischemic etiology. EF 25% s/p ICD. Volume overloaded on exam,
   with CXR consistent with CHF.
   - Hold beta-blocker and ACEi for now; restart ace-I first.  Will hold
   off restarting for now while diuresis.  Pt
s AMS also preventing her
   from safely taking PO
   #AMS
 exam c/w ICU delerium, most likely in setting of midazolam
   received for intubation.  Will continue to monitor MS.  NPO for now for
   aspiration risk.  No head CT as no localizing symptoms.  Hold sedating
   meds
   -follow up cultures
   #LUE swelling, new
   -check u/s
   -remove a-line
   # CAD: s/p MI and multiple stents with known chronic LAD total
   occlusion. No new ECG changes but has basline LAFB; initial enzymes
   negative.
   - Continue ASA, plavix, statin
   -hold ACE, BB for now per above
   # [**Last Name (un) **]: Baseline creatinine improved to baseline. Cont to monitor
   # Diabetes type 2: Continue home insulin regimen.
   # Asthma: MDIs prn
   # Depression: Continue paxil.
   ICU Care
   Nutrition: NPO for now, if AMS doesn
t clear by tomorrow, consider NGT
   placement for TF
   Glycemic Control:  ISS, long acting
   Lines:
   Multi Lumen - [**2195-5-13**] 06:49 PM
   Arterial Line - [**2195-5-13**] 10:17 PM
   Failed bedside PICC attempt today, ordered for IR placement likely on
   Monday.
   Prophylaxis:
   DVT: Hep SC, Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU while AMS

2195-05-16 11:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient extubated without event
   Coag neg staph seen in single blood culture results
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2195-5-14**] 01:08 AM
   Vancomycin - [**2195-5-15**] 08:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2195-5-15**] 12:18 PM
   Heparin Sodium (Prophylaxis) - [**2195-5-16**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2195-5-16**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 126 (74 - 131) bpm
   BP: 129/59(74) {115/44(64) - 147/66(79)} mmHg
   RR: 26 (13 - 34) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                    585 mL
                                                                    187 mL
   PO:
             TF:
   IVF:
                                                                    495 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  1,902 mL
                                                                    758 mL
   Urine:
                                                                  1,902 mL
                                                                    758 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,317 mL
                                                                   -571 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (440 - 440) mL
   PS : 10 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 97%
   ABG: 7.45/51/68/33/9
   Ve: 8 L/min
   PaO2 / FiO2: 227
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Voice, Movement: Able
   to move LE to command
   Labs / Radiology
   10.4 g/dL
   200 K/uL
   109 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.7 mEq/L
   31 mg/dL
   102 mEq/L
   143 mEq/L
   30.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2195-5-14**]  05:38 AM
                             [**2195-5-14**]  04:13 PM
                             [**2195-5-14**]  04:34 PM
                             [**2195-5-15**]  04:47 AM
                             [**2195-5-15**]  04:58 AM
                             [**2195-5-15**]  09:38 AM
                             [**2195-5-15**]  04:28 PM
                             [**2195-5-16**]  04:40 AM
                             [**2195-5-16**]  05:01 AM
                             [**2195-5-16**]  07:12 AM
   WBC
   8.7
   10.7
   Hct
   32.1
   31.2
   30.9
   Plt
   240
   200
   Cr
   1.1
   0.9
   TCO2
   34
   32
   32
   35
   36
   36
   37
   Glucose
   203
   109
   Other labs: PT / PTT / INR:15.9/27.6/1.4, CK / CKMB /
   Troponin-T:47/5/0.02, ALT / AST:71/33, Alk Phos / T Bili:186/0.5,
   Amylase / Lipase:38/26, Lactic Acid:1.2 mmol/L, Albumin:3.6 g/dL,
   LDH:194 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Microbiology: BC [**5-14**]--Pending
   [**5-13**]--Coag neg staph
   Urine Culture--Negative
   Assessment and Plan
   69 yo female with h/o CAD, ischemic cardiomyopathy and admit with
   hypoxemic respiratory failure and post intubation hypotension.  She now
   has been successfully extubated with reasonable stability of
   ventilation by ABG evaluation.  She had a likely combination of volume
   overload and possibly triggered bronchospasm leading to initial
   failure.
   Respiratory Failure-
   Patient with continued O2 requirement
has reasonable capacity to
   protect airway from recurrent aspiration but will maintain caution.
   -Continue diuresis
   -Will not D/C a-line at this time
will need follow up examination and
   ultrasound of upper extremity to rule out DVT
   -Could consider lasix gtt to allow stable and steady diuresis
   Congestive Heart Failure-Chronic and acute systolic dysfunction-
   -Has tolerated diuresis and will continue it
   -Will need to return afterload reduction into place at this time.
   -For CAD treatment willl need to restart Anti=platelet agents
   Altered Mental Status-
   -Continue with aspiration precautions
   -Is encephalopathy by exam
   -Will move to CT for focal deficit or worsening of encephalopathy
   allowing reassuring exam
   gg
   ICU Care
   Nutrition: NPO with altered mental status
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2195-5-13**] 06:49 PM
   Arterial Line - [**2195-5-13**] 10:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Daughter updated on progress and concerns during rounds in patient
   room.  All questions answered.
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2195-05-17 07:46:00 Physician Resident Progress Note
Chief Complaint: 69F h/o CAD s/p multiple stents, ischemic
   cardiomyopathy (EF 25%), DM2, asthma presenting with acute shortness of
   breath and altered mental status in the setting of CHF exacerbation
   24 Hour Events:
 ULTRASOUND - At [**2195-5-16**] 12:21 PM
 ARTERIAL LINE - STOP [**2195-5-16**] 06:17 PM
   -gave lasix 40mg IV, already almost 3L neg, UOP >200/hour.
   -daughter and sister expressed concerns over elder abuse at rehab, SW
   consult placed
   -several episodes ectopic atrial tachycardia.  Given lopressor IV 5,
   only slight, transient response, intermittently sustaining in
   120s-130s.  Still too somnolent to safely take PO, however slightly
   more alert than in am, responding appropriately to questions.   Started
   on dilt gtt, responded with decrease to HR 80s, BP stable.
   -has LUE DVT, art line d/c'd due to concerns for severe swelling and
   possible inaccuracy
   -more alert this am, able to take sips and PO meds.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-5-15**] 08:07 AM
   Infusions:
   Diltiazem - 7.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2195-5-16**] 01:25 PM
   Heparin Sodium (Prophylaxis) - [**2195-5-16**] 03:32 PM
   Metoprolol - [**2195-5-16**] 03:32 PM
   Diltiazem - [**2195-5-16**] 09:40 PM
   Other medications:
   Colace
   Paxil
   Lipitor
   Plavix
   Asa
   ISS
   Ipratropium
   Changes to medical and family history: Granddaughter send to children
   hospital yesterday after fall with head injury/syncope in waiting
   room.
   Review of systems is unchanged from admission except as noted below
   Review of systems: Answering questions. Denies pain in LUE or anywhere,
   no difficulty breathing.
you are all making too much noise this
   morning.
   Flowsheet Data as of  [**2195-5-17**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 81 (79 - 142) bpm
   BP: 148/67(88) {95/22(42) - 148/76(91)} mmHg
   RR: 28 (18 - 32) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    357 mL
                                                                    129 mL
   PO:
             TF:
   IVF:
                                                                    357 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  3,568 mL
                                                                    440 mL
   Urine:
                                                                  3,568 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,211 mL
                                                                   -311 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98% 35% shovel mask
   ABG: ///36/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, awake, answering questions. Slightly garbled speech with thick
   accent.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, MM dry
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: rhonchorous breath sounds, minmal basilar
   crackles, no wheeze
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, impressive asymmetric
   LUE edema.  No LE edema
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Awake, not oriented, but answering questions appropriately,
   obeying commands. No difficulty with swallowing thin liquids or pills.
   Labs / Radiology
   199 K/uL
   11.0 g/dL
   129 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.1 mEq/L
   20 mg/dL
   102 mEq/L
   146 mEq/L
   32.7 %
   7.7 K/uL
        [image002.jpg]
                             [**2195-5-14**]  04:13 PM
                             [**2195-5-14**]  04:34 PM
                             [**2195-5-15**]  04:47 AM
                             [**2195-5-15**]  04:58 AM
                             [**2195-5-15**]  09:38 AM
                             [**2195-5-15**]  04:28 PM
                             [**2195-5-16**]  04:40 AM
                             [**2195-5-16**]  05:01 AM
                             [**2195-5-16**]  07:12 AM
                             [**2195-5-17**]  04:35 AM
   WBC
   8.7
   10.7
   7.7
   Hct
   32.1
   31.2
   30.9
   32.7
   Plt
   [**Telephone/Fax (3) 2415**]
   Cr
   1.1
   0.9
   0.7
   TCO2
   32
   32
   35
   36
   36
   37
   Glucose
   [**Telephone/Fax (3) 2416**]
   Other labs: PT / PTT / INR:15.9/27.6/1.4, CK / CKMB /
   Troponin-T:47/5/0.02, ALT / AST:71/33, Alk Phos / T Bili:186/0.5,
   Amylase / Lipase:38/26, Lactic Acid:1.2 mmol/L, Albumin:3.6 g/dL,
   LDH:194 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Micro:  [**5-13**] Urine culture, <10,000 colonies
   Blood 4/23, 1 set no growth, 1 set Coag neg staph
   Blood 4/24 No growth
   LUE DVT:
   IMPRESSION:
   Complete thrombosis of the left subclavian vein and left axillary vein
   with no
   extension into the left jugular vein.
   Assessment and Plan
   69F h/o CAD s/p multiple stents, ischemic cardiomyopathy (EF 25%), DM2,
   asthma presenting with acute shortness of breath and altered mental
   status in the setting of CHF exacerbation
   # Respiratory failure: Hypoxic likely due to CHF.
   - diuresed >3L yesterday with 40mg IV lasix x 1 in am.  Goal even to
   500 negative today.   Will hold on lasix for the am. Give in pm if
   positive (20mg IV)
   - Wean 02 as tolerated
   - off prednisone yesterday, rapid taper for possible superimposed
   asthma exacerbation
   # Hypotension: improved now; off pressors.  Likely in setting of
   baseline poor CO and intubation.
   -  Maintained stable BP despite very aggressive diuresis.
   -  Restart BB today, consider restarting ACEI tomorrow if remains
   stable.
   -  stopped vancomycin for positive blood culture; only
 and was
   s.aureus coag negative. Likely contaminant. No other positive culture
   data, unlikely sepsis as etiology for hypotension.
   # Atrial tachycardia.  Has paroxysmal episodes of ectopic atrial
   tachycardia with HR to 140s, BP lower during these times. Responded
   will to dilt gtt yesterday, will few bursts to low 100s, HR typically
   in 70s.
   -attempt to wean dilt today
   -restart BB, home dose is 25 metoprolol [**Hospital1 **], will try TID for now while
   trying to wean dilt
   -continue to keep even/negative as volume overload may have contributed
   to her development of atrial tach.
   # CHF: Ischemic etiology. EF 25% s/p ICD. Volume overloaded on exam,
   with CXR consistent with CHF.
   - restarting BB, poss restart ACEI tomorrow
   - goal negative 0-500cc today
   #AMS
 exam c/w ICU delerium, most likely in setting of midazolam
   received for intubation.  Has been improving.
   -trial of PO, restart po meds. Thus far swallowing without difficulty,
   SPL c/s if concern for aspiration risk.
   -follow up cultures
   #LUE swelling, new.  U/s showed upper extremitiy DVT with complete
   occlusion of subclavian, axiallary vein.  No involvement of IJ. Pt pain
   free.  Likely developed insetting of endothelial injury during multiple
   line placement attempts in setting of previously placed pacer wires.
   -elevate arm
   -removed a-line
   # CAD: s/p MI and multiple stents with known chronic LAD total
   occlusion. No new ECG changes but has basline LAFB; initial enzymes
   negative.
   - Continue ASA, plavix, statin
   -hold ACE, restart BB
   # [**Last Name (un) **]: Baseline creatinine improved to baseline. Cont to monitor
   # Diabetes type 2: Continue home insulin regimen.
   # Asthma: MDIs prn
   # Depression: Continue paxil.
   ICU Care
   Nutrition: advance to cardiac diabetic diet
   Glycemic Control:  ISS and long acting
   Lines:
   Multi Lumen - [**2195-5-13**] 06:49 PM, failed bedside PICC placement
   yesterday, will need placement under IR, ordered, will keep femoral
   line in until then as no PIV access.
   Prophylaxis:
   DVT: Hep SC, pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Continue to monitor, if off dilt gtt and mental status
   remains clear, may consider calling out this afternoon vs tomorrow.

2195-05-17 16:53:00 Physician Attending Progress Note
Chief Complaint: Altered mental status and hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2195-5-16**] 12:21 PM
 ARTERIAL LINE - STOP [**2195-5-16**] 06:17 PM
   patient with improved altertness and responsivness
   Ultrasound with clot in SCV on left--occluding
   Diuresis effected with single dose of lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-5-15**] 08:07 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2195-5-16**] 09:40 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Daytime somnolence
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-5-17**] 04:53 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 63 (62 - 122) bpm
   BP: 117/64(77) {95/22(42) - 155/110(116)} mmHg
   RR: 19 (18 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    357 mL
                                                                    866 mL
   PO:
             600 mL
   TF:
   IVF:
                                                                    357 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  3,568 mL
                                                                    885 mL
   Urine:
                                                                  3,568 mL
                                                                    885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,211 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///36/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   199 K/uL
   129 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.1 mEq/L
   20 mg/dL
   102 mEq/L
   146 mEq/L
   32.7 %
   7.7 K/uL
        [image002.jpg]
                             [**2195-5-14**]  04:13 PM
                             [**2195-5-14**]  04:34 PM
                             [**2195-5-15**]  04:47 AM
                             [**2195-5-15**]  04:58 AM
                             [**2195-5-15**]  09:38 AM
                             [**2195-5-15**]  04:28 PM
                             [**2195-5-16**]  04:40 AM
                             [**2195-5-16**]  05:01 AM
                             [**2195-5-16**]  07:12 AM
                             [**2195-5-17**]  04:35 AM
   WBC
   8.7
   10.7
   7.7
   Hct
   32.1
   31.2
   30.9
   32.7
   Plt
   [**Telephone/Fax (3) 2415**]
   Cr
   1.1
   0.9
   0.7
   TCO2
   32
   32
   35
   36
   36
   37
   Glucose
   [**Telephone/Fax (3) 2416**]
   Other labs: PT / PTT / INR:15.9/27.6/1.4, CK / CKMB /
   Troponin-T:47/5/0.02, ALT / AST:71/33, Alk Phos / T Bili:186/0.5,
   Amylase / Lipase:38/26, Lactic Acid:1.2 mmol/L, Albumin:3.6 g/dL,
   LDH:194 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: Ultrasound with Left SCV Thrombosis
   Assessment and Plan
   69 yo female with admission with altered mental status and hypoxemia.
   She has had reasonable response to diuresis over past 24 hours
   suggesting significant contribution from volume overload at this time.
   Will, by problems-->
   1)Hypoxemia-Respiratory Failure-
   -Continue diuresis
   -Wean O2 as tolerated
   -Will maintain goal of 500cc negative only today given hypernatremia
   and increased HCO3 with likely contraction alkalosis
   2)Altered Mental Status-
   -Continue exam with hope for continued improvement towards baseline
   -CT, again, for worsening or focal deficit
   -Stabilize electrolyte abnormalities
   3)Atrial Tachycardia-
   -Patient with Dilt gtt
   -Wean to B-blocker as tolerated
   4)Upper Extremity DVT-
   -Will monitor exam
   -Would consider anticoagulation in the setting of UE DVT if extension
   seen or clinical syndrome consistent with PE leading to evaluation and
   treatment for PE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2195-5-13**] 06:49 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2195-05-18 11:33:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Mental status remains depressed, although reportedly better than just
   after extubation.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-5-18**] 04:02 PM
   Other medications:
   SQH, SQI, [**Last Name (LF) **], [**First Name3 (LF) 369**], paroxetine, Lopressor, lasix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-5-18**] 07:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (96.9
   HR: 68 (68 - 99) bpm
   BP: 122/53(71) {96/47(69) - 140/90(97)} mmHg
   RR: 18 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                  1,389 mL
                                                                  1,271 mL
   PO:
                                                                  1,050 mL
                                                                  1,240 mL
   TF:
   IVF:
                                                                    339 mL
                                                                     31 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    888 mL
   Urine:
                                                                  1,120 mL
                                                                    888 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    269 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 4 cmH2O
   FiO2: 30%
   SpO2: 95%
   ABG: 7.45/55/69/39/11
   Ve: 7.5 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: at right > left base)
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  warm
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal, Sometimes follows single-step commands; not
   oriented except to name
   Labs / Radiology
   11.6 g/dL
   176 K/uL
   198 mg/dL
   0.9 mg/dL
   39 mEq/L
   4.0 mEq/L
   19 mg/dL
   101 mEq/L
   142 mEq/L
   35.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2195-5-15**]  04:47 AM
                             [**2195-5-15**]  04:58 AM
                             [**2195-5-15**]  09:38 AM
                             [**2195-5-15**]  04:28 PM
                             [**2195-5-16**]  04:40 AM
                             [**2195-5-16**]  05:01 AM
                             [**2195-5-16**]  07:12 AM
                             [**2195-5-17**]  04:35 AM
                             [**2195-5-18**]  03:30 AM
                             [**2195-5-18**]  06:26 PM
   WBC
   8.7
   10.7
   7.7
   9.3
   Hct
   31.2
   30.9
   32.7
   35.8
   Plt
   [**Telephone/Fax (3) 2436**]76
   Cr
   1.1
   0.9
   0.7
   0.9
   TCO2
   32
   35
   36
   36
   37
   39
   Glucose
   [**Telephone/Fax (3) 2437**]98
   Other labs: PT / PTT / INR:13.0/31.8/1.1, CK / CKMB /
   Troponin-T:47/5/0.02, ALT / AST:71/33, Alk Phos / T Bili:186/0.5,
   Amylase / Lipase:38/26, Lactic Acid:1.2 mmol/L, Albumin:3.6 g/dL,
   LDH:194 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   69-year-old woman admitted with respiratory failure, now s/p extubation
   on [**2195-5-15**].  Mental status remains off today.
   Respiratory failure
          Significant response to diuresis and treatment for heart
   failure (systolic, acute and chronic) suggests that this was the major
   contributor
          Wean nasal cannula as tolerated
   Altered mental status / delirium
          Etiology is unclear.  [**Name2 (NI) 60**] be related to residual BZD,
   electrolytes, other meds, etc.
          Hypercarbia is possible, particularly given escalation in
   HCO3
 check VBG to exclude.  If nondiagnostic
 ABG.
   Atrial Tachycardia
          Now off diltiazem infusion
          Beta blocker as tolerated
   Upper Extremity DVT
          Will monitor exam
          Prior plans still seem reasonable at this point:
Would
   consider anticoagulation in the setting of UE DVT if extension seen or
   clinical syndrome consistent with PE leading to evaluation and
   treatment for PE
          Will consider anticoagulation if no need for procedures over
   next couple of days; will discuss fall risk with chronic providers
   ICU Care
   Nutrition: NPO
 high aspiration risk given mental status
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2195-5-18**] 11:14 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   4p addendum
   VBG showed elevated pCO2.  pH is nondiagnostic about whether this
   suggests arterial acidosis or not
   Tried noninvasive ventilation, but did not tolerate
   Will check ABG since this is a major branch point.  If substantially
   acidemic will need to try different interfaces for NIMV
   30 minutes

2195-05-19 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2195-5-18**] 04:05 PM
 PICC LINE - START [**2195-5-18**] 10:15 PM
   patient pulled out her peripheral access and order was placed earlier
   for PICC insertion. PICC placed and confirmation xray done.
   VBG with CO2 of 79
   - ABG: 7.45/55/69 -> much improved -> ? from stimulation/agitation.
   - Trial of Bipap but would not tolerate.
   - ? Etoh abuse history -> d/w family
   - Femoral line not d/c'd (?), so left in overnight and placed PICC in
   AM.
   - Repeat ABG in AM stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-5-18**] 04:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-5-19**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 69 (68 - 111) bpm
   BP: 102/72(76) {0/53(71) - 136/90(97)} mmHg
   RR: 27 (16 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SA (Sinus Arrhythmia)
   Wgt (current): 93.8 kg (admission): 90 kg
   Height: 67 Inch
                  Total In:
                                                                  1,271 mL
                                                                    120 mL
   PO:
                                                                  1,240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     31 mL
   Blood products:
   Total out:
                                                                  1,688 mL
                                                                  1,155 mL
   Urine:
                                                                  1,688 mL
                                                                  1,155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -417 mL
                                                                 -1,035 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 4 cmH2O
   FiO2: 30%
   SpO2: 97%
   ABG: 7.46/58/81.[**Numeric Identifier 607**]//14
   Ve: 7.5 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   176 K/uL
   11.6 g/dL
   198 mg/dL
   0.9 mg/dL
   39 mEq/L
   4.0 mEq/L
   19 mg/dL
   101 mEq/L
   142 mEq/L
   35.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2195-5-15**]  04:58 AM
                             [**2195-5-15**]  09:38 AM
                             [**2195-5-15**]  04:28 PM
                             [**2195-5-16**]  04:40 AM
                             [**2195-5-16**]  05:01 AM
                             [**2195-5-16**]  07:12 AM
                             [**2195-5-17**]  04:35 AM
                             [**2195-5-18**]  03:30 AM
                             [**2195-5-18**]  06:26 PM
                             [**2195-5-19**]  03:10 AM
   WBC
   10.7
   7.7
   9.3
   Hct
   30.9
   32.7
   35.8
   Plt
   200
   199
   176
   Cr
   0.9
   0.7
   0.9
   TCO2
   32
   35
   36
   36
   37
   39
   42
   Glucose
   109
   129
   198
   Other labs: PT / PTT / INR:13.0/31.8/1.1, CK / CKMB /
   Troponin-T:47/5/0.02, ALT / AST:71/33, Alk Phos / T Bili:186/0.5,
   Amylase / Lipase:38/26, Lactic Acid:1.2 mmol/L, Albumin:3.6 g/dL,
   LDH:194 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   69F h/o CAD s/p multiple stents, ischemic cardiomyopathy (EF 25%), DM2,
   asthma presenting with acute shortness of breath and altered mental
   status in the setting of CHF exacerbation
   # Respiratory failure: Hypoxic likely due to CHF.
   - diuresed >3L yesterday with 40mg IV lasix x 1 in am.  Goal even to
   500 negative today.   Will hold on lasix for the am. Give in pm if
   positive (20mg IV)
   - Wean 02 as tolerated
   - off prednisone yesterday, rapid taper for possible superimposed
   asthma exacerbation
   # Hypotension: improved now; off pressors.  Likely in setting of
   baseline poor CO and intubation.
   -  Maintained stable BP despite very aggressive diuresis.
   -  Restart BB today, consider restarting ACEI tomorrow if remains
   stable.
   -  stopped vancomycin for positive blood culture; only
 and was
   s.aureus coag negative. Likely contaminant. No other positive culture
   data, unlikely sepsis as etiology for hypotension.
   # Atrial tachycardia.  Has paroxysmal episodes of ectopic atrial
   tachycardia with HR to 140s, BP lower during these times. Responded
   will to dilt gtt yesterday, will few bursts to low 100s, HR typically
   in 70s.
   -attempt to wean dilt today
   -restart BB, home dose is 25 metoprolol [**Hospital1 **], will try TID for now while
   trying to wean dilt
   -continue to keep even/negative as volume overload may have contributed
   to her development of atrial tach.
   # CHF: Ischemic etiology. EF 25% s/p ICD. Volume overloaded on exam,
   with CXR consistent with CHF.
   - restarting BB, poss restart ACEI tomorrow
   - goal negative 0-500cc today
   #AMS
 exam c/w ICU delerium, most likely in setting of midazolam
   received for intubation.  Has been improving.
   -trial of PO, restart po meds. Thus far swallowing without difficulty,
   SPL c/s if concern for aspiration risk.
   -follow up cultures
   #LUE swelling, new.  U/s showed upper extremitiy DVT with complete
   occlusion of subclavian, axiallary vein.  No involvement of IJ. Pt pain
   free.  Likely developed insetting of endothelial injury during multiple
   line placement attempts in setting of previously placed pacer wires.
   -elevate arm
   -removed a-line
   # CAD: s/p MI and multiple stents with known chronic LAD total
   occlusion. No new ECG changes but has basline LAFB; initial enzymes
   negative.
   - Continue ASA, plavix, statin
   -hold ACE, restart BB
   # [**Last Name (un) **]: Baseline creatinine improved to baseline. Cont to monitor
   # Diabetes type 2: Continue home insulin regimen.
   # Asthma: MDIs prn
   # Depression: Continue paxil.
   ICU Care
   Nutrition: advance to cardiac diabetic diet
   Glycemic Control:  ISS and long acting
   Lines:
   Multi Lumen - [**2195-5-13**] 06:49 PM, failed bedside PICC placement
   yesterday, will need placement under IR, ordered, will keep femoral
   line in until then as no PIV access.
   Prophylaxis:
   DVT: Hep SC, pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Continue to monitor, if off dilt gtt and mental status
   remains clear, may consider calling out this afternoon vs tomorrow.

2195-05-19 12:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2195-5-18**] 04:05 PM
 PICC LINE - START [**2195-5-18**] 10:15 PM
   69 yo F w/CAD s/p CABG and multiple stents, ischemic CMP (EF25%) s/p
   ICD, and asthma a/w likely CHF exacerbation +/- asthma exacerbation,
   precipitant unclear.  Intubated in ED after failed bipap.  Improved
   w/diuresis and extubated [**5-15**].  Slowly waking up after extubation.
   Yest afternoon VBG w/PCO2 70s and normal pH, did not tolerate bipap
   ABG 7.45/55/69 last night
   Major event is improved interactivity and mental status.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-5-18**] 04:02 PM
   Other medications:
   lasix
   lopressor
   atrovent nebs q6hrs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-5-19**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.7
C (96.2
   HR: 105 (64 - 111) bpm
   BP: 114/66(79) {0/53(71) - 136/90(101)} mmHg
   RR: 25 (16 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.8 kg (admission): 90 kg
   Height: 67 Inch
                  Total In:
                                                                  1,271 mL
                                                                    360 mL
   PO:
                                                                  1,240 mL
                                                                    360 mL
   TF:
   IVF:
                                                                     31 mL
   Blood products:
   Total out:
                                                                  1,688 mL
                                                                  1,480 mL
   Urine:
                                                                  1,688 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -417 mL
                                                                 -1,120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 4 cmH2O
   FiO2: 30%
   SpO2: 97%
   ABG: 7.46/58/81.[**Numeric Identifier 607**]/40/14
   Ve: 7.5 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   few crackles in bases b/l, Wheezes : scattered exp wheezes, Diminished:
   throught, esp at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Tender: , Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed, No(t)
   Oriented (to): , Movement: Not assessed, Tone: Not assessed, arouses to
   voice, speaking, no oriented to self
   Labs / Radiology
   11.3 g/dL
   161 K/uL
   162 mg/dL
   0.7 mg/dL
   40 mEq/L
   3.7 mEq/L
   18 mg/dL
   99 mEq/L
   142 mEq/L
   33.9 %
   8.8 K/uL
        [image002.jpg]
                             [**2195-5-15**]  09:38 AM
                             [**2195-5-15**]  04:28 PM
                             [**2195-5-16**]  04:40 AM
                             [**2195-5-16**]  05:01 AM
                             [**2195-5-16**]  07:12 AM
                             [**2195-5-17**]  04:35 AM
                             [**2195-5-18**]  03:30 AM
                             [**2195-5-18**]  06:26 PM
                             [**2195-5-19**]  03:10 AM
                             [**2195-5-19**]  07:59 AM
   WBC
   10.7
   7.7
   9.3
   8.8
   Hct
   30.9
   32.7
   35.8
   33.9
   Plt
   200
   199
   176
   161
   Cr
   0.9
   0.7
   0.9
   0.7
   TCO2
   35
   36
   36
   37
   39
   42
   Glucose
   109
   129
   198
   162
   Other labs: PT / PTT / INR:13.4/32.2/1.2, CK / CKMB /
   Troponin-T:47/5/0.02, ALT / AST:71/33, Alk Phos / T Bili:186/0.5,
   Amylase / Lipase:38/26, Lactic Acid:1.2 mmol/L, Albumin:3.6 g/dL,
   LDH:194 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: [**5-18**] CXR - interstitial pulmonary edema, PICC position ok
   Assessment and Plan
   69 yo F w/CAD s/p CABG and multiple stents, ischemic CMP (EF25%) s/p
   ICD, and asthma a/w likely CHF exacerbation +/- asthma exacerbation,
   precipitant unclear.  Intubated in ED after failed bipap.  Improved
   w/diuresis and extubated [**5-15**].  Slowly waking up after extubation.
   Respiratory failure
          Significant response to diuresis and treatment for heart
   failure (systolic, acute and chronic) suggests that this was the major
   contributor.  Asthma/COPD exacerbation may have contributed.
          Restart home Lasix today. Goal [**Telephone/Fax (1) 2460**] negative today.
          Continue bronchodilators.
   Metabolic alkalosis
   likely [**2-21**] diuresis
   will not give diamox as doing so would require patient to increase her
   minute ventilation
   Heart failure, systolic
 acute and chronic
   - still vol overloaded, though much improved.  Lasix as above.  Restart
   home ACEI
   Altered mental status / delirium
          Significantly improved c/w yesterday.
          If worsens, consider CT-head
   Atrial Tachycardia
          Remains off diltiazem infusion
          Beta blocker as tolerated
   Upper Extremity DVT
          Will monitor exam
          Prior plans still seem reasonable at this point:
Would
   consider anticoagulation in the setting of UE DVT if extension seen or
   clinical syndrome consistent with PE leading to evaluation and
   treatment for PE
          Will consider anticoagulation if no need for procedures over
   next couple of days; will discuss fall risk with chronic providers
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2195-5-18**] 10:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: